US07572801B2
Under cooling (0° C.), sodium ethanolate (2.18 g, 32 mmol) was added to a mixture of 4-fluorophenol ([371-41-5], 3.00 g, 27 mmol), ethyl 4-chlorobutyrate ([3153-36-4], 4.84 g, 32 mmol) and ethanol (15 ml), and the reaction mixture was then refluxed overnight. The solvent was evaporated, the residue was taken up in ethyl ester and was washed with water. After drying (Na2SO4), the solvent was evaporated, and 4-(4-fluoro-phenoxy)-butyric acid ethyl ester was isolated from the residue by column chromatography (silica gel, ethyl acetate/heptane). 1H NMR (d6-DMSO): 1.29 (t, 3H), 2.11 (tt, 2H), 2.51 (t, 2H), 3.96 (t, 2H), 4.13 (q, 2H), 6.79-6.85 (m, 2H), 6.92-6.99 (m, 2H).

reactant | sodium ethanolate | 32 mmol, 2.18 g | C(C)[O-].[Na+]
reactant | 4-fluorophenol | 27 mmol, 3.00 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | ethyl 4-chlorobutyrate | 32 mmol, 4.84 g | ClCCCC(=O)OCC | C6H11ClO2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(4-fluoro-phenoxy)-butyric acid ethyl ester | C(C)OC(CCCOC1=CC=C(C=C1)F)=O | C12H15FO3
